US07888364B2
Procedure B was performed with 2-pyridylzinc bromide (4 mL, 2.0 mmol, 0.5 M in THF) and 3-bromo-4-chloro-nitrobenzene (236 mg, 1.0 mmol). Purified by chromatography on silica gel (10% ethyl acetate/hexanes) to yield 2-(2-chloro-5-nitrophenyl)pyridine as a light yellow solid.

reactant | 2-pyridylzinc bromide | 2.0 mmol, 0.5 M, 4 mL | [Br-].N1=C(C=CC=C1)[Zn+]
reactant | 3-bromo-4-chloro-nitrobenzene | 1.0 mmol, 236 mg | BrC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3BrClNO2
product | 2-(2-chloro-5-nitrophenyl)pyridine | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC=CC=C1 | C11H7ClN2O2
